US07585891B2
Step D Synthesis of 4-[4-(2,2-dimethylbenzo[d]1,3-dioxolan-5-yloxy)butoxy]-3,5-dichlorophenol as an Intermediate
A mixture of 0.29 gram (0.59 millimole) of, 2-[4-(2,2-dimethylbenzo[d]1,3-dioxolan-5-oxy)butoxy]-1,3-dichloro-5-(phenylmethoxy)benzene and 0.05 gram (catalyst) of 10% palladium on carbon in 50 mL of ethanol was subjected to hydrogenation conditions using a Parr Hydrogenator, yielding 0.24 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2-[4-(2,2-dimethylbenzo[d]1,3-dioxolan-5-oxy)butoxy]-1,3-dichloro-5-(phenylmethoxy)benzene | CC1(OC2=C(O1)C=CC(=C2)OCCCCOC2=C(C=C(C=C2Cl)OCC2=CC=CC=C2)Cl)C | C26H26Cl2O5
catalyst | palladium on carbon | 0.05 gram | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-[4-(2,2-dimethylbenzo[d]1,3-dioxolan-5-yloxy)butoxy]-3,5-dichlorophenol | 0.24 gram | CC1(OC2=C(O1)C=CC(=C2)OCCCCOC2=C(C=C(C=C2Cl)O)Cl)C | C19H20Cl2O5
